US07199124B2
N-[4-(3-methylphenyl)-5-[2-(phenylacetylamino)-4-pyrimidinyl]-1,3-thiazol-2-yl]phenylacetamide
To a solution of tert-butyl 4-[2-amino-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyrimidinylcarbamate (0.50 g, 1.3 mmol) in N,N-dimethylacetamide (5 mL) was added phenylacetylchloride (0.52 mL, 3.9 mmol) and the mixture was stirred at 80° C. for 14 hrs. Into the reaction mixture was poured aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried and concentrated. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate=7:3), and the obtained oil was recrystallized from ethyl ether to give the title compound (0.09 g, yield 13%).

reactant | tert-butyl 4-[2-amino-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyrimidinylcarbamate | 1.3 mmol, 0.50 g | NC=1SC(=C(N1)C1=CC(=CC=C1)C)C1=NC(=NC=C1)NC(OC(C)(C)C)=O | C19H21N5O2S
reactant | phenylacetylchloride | 3.9 mmol, 0.52 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-(3-methylphenyl)-5-[2-(phenylacetylamino)-4-pyrimidinyl]-1,3-thiazol-2-yl]phenylacetamide | 0.09 g, yield 13% | CC=1C=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)NC(CC1=CC=CC=C1)=O)NC(CC1=CC=CC=C1)=O | C30H25N5O2S
